US06835835B1
Preparation of 2-(2-bromophenyl)pyridine
To a 250 mL flask were charged 2-bromopyridine (4.8 mL, 49 mmol), 2-bromophenylboronic acid (9.85 g, 49 mmol), triphenylphosphine (1.09 g, 4.17 mmol), and ethylene glycol dimethyl ether (55 mL). A homogeneous solution was formed. To this solution was added 2 M K2CO3 (60 mL, 120 mmol). The mixture was purged with nitrogen then Pd(OAc)2 (0.24 g, 1 mmol) was added. The mixture was refluxed for 5 h then cooled to room temperature. The reaction mixture was transferred into a separating funnel and the organic layer was separated and retained. The aqueous phase was extracted with ethyl acetate (EtOAc) (4×100 mL). The combined organic layers were washed with water (200 mL) and brine (200 mL) and dried over MgSO4. Filtration and evaporation produced a dark brown oil, which was purified by chromatography on silica gel with CH2Cl2:heptane=2:1 and CH2Cl2 to provide a light yellow oil, 7.57 g, 65%.

reactant | 2-bromopyridine | 49 mmol, 4.8 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2-bromophenylboronic acid | 49 mmol, 9.85 g | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
reactant | triphenylphosphine | 4.17 mmol, 1.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 120 mmol, 2 M, 60 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 1 mmol, 0.24 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethylene glycol dimethyl ether | 55 mL | COCCOC | C4H10O2
product | 2-(2-bromophenyl)pyridine | BrC1=C(C=CC=C1)C1=NC=CC=C1 | C11H8BrN
